US04874775
3-(4-hydroxyphenylaminomethyl)pyridine
Five g. of 3-(4-hydroxyphenyliminomethyl)pyridine was prepared according to the process of Preparation 1, and was dissolved in 50 ml. of ethanol. One g. of palladium on carbon hydrogenation catalyst was added, and the mixture was agitated under 40 psig. hydrogen pressure for 1 hour. The catalyst was then removed by filtration, and the filtrate was evaporated to dryness. The residue consisted in large part of the desired intermediate product.

reactant | 3-(4-hydroxyphenyliminomethyl)pyridine | OC1=CC=C(C=C1)N=CC=1C=NC=CC1 | C12H10N2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-(4-hydroxyphenylaminomethyl)pyridine | OC1=CC=C(C=C1)NCC=1C=NC=CC1 | C12H12N2O
